# Simple netlist with transmission line
*.analysis op elemop=1 intvars=1
.analysis dc device=res:rth param=r start=1k stop=5k num=10 shell=0

idc:i1 gnd 3 idc=2e-3
res:r1 3 gnd r=1k
diode_t:d1 3 gnd 1000 gnd rs=50.
#diode:d1 3 gnd rs=50. temp=100.

res:rth 1000 1001 r=100.
vdc:tamb 1001 gnd vdc=20.C

.plot dc 3 
.plot dc 1000 

.end


